US08110577B2
Preparation of 2-tert-Butoxycarbonyl-2-(3-methyl[1,2,4]thiadiazol-5-yl)octanedioic Acid 1-tert-Butyl Ester 8-Ethyl Ester (2021038)
Potassium tert-butoxide (12.2 g, 0.11 mol) followed by 2-tert-butoxycarbonyloctanedioic acid 1-tert-butyl ester 8-ethyl ester (2021037) (30.0 g, 83.8 mmol) was added portionwise to stirred tetrahydrofuran (170 mL) and then 5-chloro-3-methyl-1,2,4-thiadiazole (2009380) (11.3 g, 83.8 mmol) was added to the resultant slurry. The mixture was heated at reflux overnight before being quenched with water (150 mL) and extracted with dichloromethane (3×200 mL). The combined organic fractions were dried (MgSO4) and the solvent was removed under reduced pressure. The crude product was purified by flash chromatography (6:1 hexane/ethyl acetate) to afford 2-tert-butoxycarbonyl-2-(3-methyl[1,2,4]thiadiazol-5-yl)octanedioic aAcid 1-tert-butyl ester 8-ethyl ester (2021038) (10 g, 26%) as a yellow oil.

reactant | Potassium tert-butoxide | 0.11 mol, 12.2 g | CC(C)([O-])C.[K+]
reactant | 2-tert-butoxycarbonyloctanedioic acid 1-tert-butyl ester 8-ethyl ester | 83.8 mmol, 30.0 g | C(C)OC(CCCCCC(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C19H34O6
reactant | 5-chloro-3-methyl-1,2,4-thiadiazole | 83.8 mmol, 11.3 g | ClC1=NC(=NS1)C | C3H3ClN2S
solvent | tetrahydrofuran | 170 mL | O1CCCC1 | C4H8O
product | 2-tert-Butoxycarbonyl-2-(3-methyl[1,2,4]thiadiazol-5-yl)octanedioic Acid 1-tert-Butyl Ester 8-Ethyl Ester | C(C)OC(CCCCCC(C(=O)OC(C)(C)C)(C1=NC(=NS1)C)C(=O)OC(C)(C)C)=O | C22H36N2O6S
